US07354941B2
(R)-Diallyl-[1-(4-bromo-phenyl)-ethyl]-amine of Formula (5.0.11)
A mixture of 2.0 g (10.0 mmol) (R)-1-(4-bromo-phenyl)-ethylamine and 30 ml toluene (dry) was cooled to 0° C. Thereafter, 5.2 ml (30.0 mmol) of di-iso-propylethylamine was added drop-wise, followed by the addition of 7.4 ml (85 mmol) allyl bromide. The resulting mixture was warmed to room temperature and then heated to 95° C. for 2.5 hours. The mixture was filtered. The precipitate was then washed with toluene and the filtrate and washings were combined and then concentrated in vacuo to give a reddish-brown oil. Chromatography on silica gel using 15% ethyl acetate/hexanes gave 2.76 g (99%) oil.

reactant | (R)-1-(4-bromo-phenyl)-ethylamine | 10.0 mmol, 2.0 g | BrC1=CC=C(C=C1)[C@@H](C)N | C8H10BrN
reactant | di-iso-propylethylamine | 30.0 mmol, 5.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | allyl bromide | 85 mmol, 7.4 ml | C(C=C)Br | C3H5Br
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-Diallyl-[1-(4-bromo-phenyl)-ethyl]-amine | 2.76 g, 99% | C(C=C)N([C@H](C)C1=CC=C(C=C1)Br)CC=C | C14H18BrN
